US08685970B2
1-(Bromomethyl)-3-nitrobenzene (5 g, 23.1 mmol) was taken up in 100 mL of anhydrous THF along with pyrrolidine (2.3 mL, 27.72 mmol) and K2CO3 (4.8 g, 34.6 mmol). The reaction mixture was stirred at room temperature for 18 h and then filtered. The filtrate was concentrated under reduced pressure to afford 1-(3-nitrobenzyl)pyrrolidine. This material was taken up in 100 mL of absolute EtOH and 10% Pd on C (300 mg) was added. The resulting reaction mixture was stirred at room temperature under 1 atm of hydrogen for 18 h. The mixture was then filtered through a pad of Celite and the filtrate was concentrated under reduced pressure to afford 2.81 g of 3-(pyrrolidin-1-ylmethyl)aniline (70%).

reactant | 1-(Bromomethyl)-3-nitrobenzene | 23.1 mmol, 5 g | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | pyrrolidine | 27.72 mmol, 2.3 mL | N1CCCC1 | C4H9N
reactant | K2CO3 | 34.6 mmol, 4.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(3-nitrobenzyl)pyrrolidine | [N+](=O)([O-])C=1C=C(CN2CCCC2)C=CC1 | C11H14N2O2
